US06716851B2
4-(4-Methoxyanilino)-6-methyl-2-(2-pyridinyl)pyrimidine
To a mixture of 6-chloro-4-methyl-2-(2-pyridinyl)pyrimidine (115 mg, 0.56 mmol),p-anisidine (68 mg, 0.55 mmol) in water (10 mL) was added 2 N HCl (0.3 mL). The mixture was refluxed for 6 h, cooled to room temperature, and neutralized with 2N NaOH to pH 10. The resulting mixture was then extracted with 1:1 Hexane/EtOAc (50 mL). The organic phase was washed with water and brine, dried over Na2SO4 and concentrated in vacuo. The residue was purified by chromatography (1:1 Hexane/EtOAc) to yield the product as a tan solid (72 mg, 45%). 1H NMR (CDCl3): 8.80 (d, J=4.5 Hz, 1H), 8.45 (d, J=8.1 Hz, 1H), 7.81 (m, 1H), 7.35 (m, 1H), 7.23 (d, J=8.4 Hz, 2H), 7.12 (s, 1H), 6.93 (d, J=8.4 Hz, 2H), 6.41 (s, 1H), 3.83 (s, 3H), 2.45 (s, 3H).

reactant | 6-chloro-4-methyl-2-(2-pyridinyl)pyrimidine | 0.56 mmol, 115 mg | ClC1=CC(=NC(=N1)C1=NC=CC=C1)C | C10H8ClN3
reactant | p-anisidine | 0.55 mmol, 68 mg | COC1=CC=C(C=C1)N | C7H9NO
reactant | HCl | 2 N, 0.3 mL | Cl | ClH
reactant | NaOH | 2N | [OH-].[Na+]
solvent | water | 10 mL | O | H2O
product | 4-(4-Methoxyanilino)-6-methyl-2-(2-pyridinyl)pyrimidine | 72 mg, 45% | COC1=CC=C(NC2=NC(=NC(=C2)C)C2=NC=CC=C2)C=C1 | C17H16N4O
